US06949571B2
3-Amino-1-phenyl-5-(2-pyridyl)-1,2-dihydropyridin-2-one
100 mg of 10% palladium-carbon was added to 20 ml of an ethanol solution containing 546 mg of 3-nitro-1-phenyl-5-(pyridin-2-yl)-1,2-dihydropyridin-2-one, followed by stirring overnight in hydrogen atmosphere. The reaction mixture was filtered through silica gel and concentrated, to give 411 mg of the title compound.

reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | 3-nitro-1-phenyl-5-(pyridin-2-yl)-1,2-dihydropyridin-2-one | 546 mg | [N+](=O)([O-])C=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC=CC=C1)=O | C16H11N3O3
solvent | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 100 mg | [C].[Pd]
product | 3-Amino-1-phenyl-5-(2-pyridyl)-1,2-dihydropyridin-2-one | 411 mg | NC=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC=CC=C1)=O | C16H13N3O
